US04728645
A solution of 44.4 mmole of diisobutylaluminium hydride in 29 ml of toluene is added to a solution of 8.79 g of methyl 3-(1-tritylimidazol-4-yl)propionate in 175 ml of methylene chloride at -72° under nitrogen. After 5 min the reaction is quenched by adding 14 ml of methanol followed by 90 ml of water. The reaction mixture is allowed to warm to room temperature and is filtered through celite. The organic phase is separated, dried over sodium sulfate and evaporated to a yellow oil which is chromatographed on 280 g of silica with ether to yield 4.13 g of 3-(1-tritylimidazol-4-yl)propionaldehyde as an oil. IR (CDCl3): 2830, 2740, 1730 cm-1.

reactant | diisobutylaluminium hydride | 44.4 mmole | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 3-(1-tritylimidazol-4-yl)propionate | 8.79 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCC(=O)OC | C26H24N2O2
solvent | toluene | 29 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 175 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-tritylimidazol-4-yl)propionaldehyde | 4.13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCC=O | C25H22N2O
